US08058045B2
Trifluoroacetic acid (0.1 μL, 1.298 μmol) was added to tert-butyl 4-(2-(5-cyanopyrazin-2-ylamino)-5-(4-methoxyphenyl)pyridin-4-ylamino)piperidine-1-carboxylate (4 mg, 7.97 μmol) dissolved in dichloromethane (0.45 mL) and the mixture was stirred for 1 hr. The mixture was concentrated and purified by ion exchange on Isolute SCX II acidic resin (1 g), eluting with MeOH then 2M NH3-MeOH. The basic fractions were combined and concentrated. Preparative thin layer chromatography, eluting with 10% MeOH/1% NH3/89% dichloromethane) gave 5-(5-(4-methoxyphenyl)-4-(piperidin-4-ylamino)pyridin-2-ylamino)pyrazine-2-carbonitrile (2 mg, 4.98 μmol, 62.5% yield) as a yellow powder.

reactant | Trifluoroacetic acid | 1.298 μmol, 0.1 μL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-(2-(5-cyanopyrazin-2-ylamino)-5-(4-methoxyphenyl)pyridin-4-ylamino)piperidine-1-carboxylate | 7.97 μmol, 4 mg | C(#N)C=1N=CC(=NC1)NC1=NC=C(C(=C1)NC1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)OC | C27H31N7O3
solvent | dichloromethane | 0.45 mL | ClCCl | CH2Cl2
product | 5-(5-(4-methoxyphenyl)-4-(piperidin-4-ylamino)pyridin-2-ylamino)pyrazine-2-carbonitrile | 4.98 μmol, 2 mg, 62.5% yield | COC1=CC=C(C=C1)C=1C(=CC(=NC1)NC=1N=CC(=NC1)C#N)NC1CCNCC1 | C22H23N7O
